US08476300B2
1-(2-(4-(6-methoxy-2-(5-(methylsulfinyl)thiophen-2-yl)naphthalen-1-yloxy)phenoxy)ethyl)piperidine
Add 1-(2-(4-(6-methoxy-2-(5-(methylthio)thiophen-2-yl)naphthalen-1-yloxy)phenoxy)ethyl)piperidine (84 mg, 0.17 mmol), tetrahydrofuran (3.3 mL) and methanol (3.3 mL) to a round bottom flask under nitrogen. Cool the resulting solution to 0° C. and add solution of potassium peroxymonosulfate sulfate (102 mg; 0.17 mmol) in water (1.7 mL). Stir the resulting mixture at 0° C. for 30 min. Load the mixture onto an SCX acidic ion exchange column. Flush the column with 1:1 methanol/dichloromethane and elute with 1:1 2M ammonia in methanol/dichloromethane. Concentrate the ammonia containing eluent in vacuo to give the title compound (87 mg, 0.17 mmol): mass spectrum (m/z): 522 (M+1).

reactant | 1-(2-(4-(6-methoxy-2-(5-(methylthio)thiophen-2-yl)naphthalen-1-yloxy)phenoxy)ethyl)piperidine | 0.17 mmol, 84 mg | COC=1C=C2C=CC(=C(C2=CC1)OC1=CC=C(OCCN2CCCCC2)C=C1)C=1SC(=CC1)SC | C29H31NO3S2
reactant | tetrahydrofuran | 3.3 mL | O1CCCC1 | C4H8O
reactant | methanol | 3.3 mL | CO | CH4O
reactant | potassium peroxymonosulfate sulfate | 0.17 mmol, 102 mg | S(=O)(=O)([O-])O.S(=O)(=O)(OO)O.[K+]
solvent | water | 1.7 mL | O | H2O
product | 1-(2-(4-(6-methoxy-2-(5-(methylsulfinyl)thiophen-2-yl)naphthalen-1-yloxy)phenoxy)ethyl)piperidine | 0.17 mmol, 87 mg | COC=1C=C2C=CC(=C(C2=CC1)OC1=CC=C(OCCN2CCCCC2)C=C1)C=1SC(=CC1)S(=O)C | C29H31NO4S2
